US07064123B1
3-(4-Morpholin-4-yl-4-oxo-2-benzylsulfonylmethyl-butyrylamino)-4-oxo-pyrrolidine-1-carboxylic acid tert-butyl ester
4-Morpholin-4-yl-4-oxo-2-benzylsulfonylmethyl-butyric acid (120 mg, 0.34 mmol), 3-amino-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester (150 mg, 0.74 mmol), prepared as in reference 13, EDC (0.3 g, 1.6 mmol), and HOBt (150 mg, 0.96 mmol) were combined. Dichloromethyl (10 mL) was added and then 4-methylmorpholine (0.5 mL). The mixture was stirred at ambient temperature for 2 hours. After dilution with ethyl acetate (200 mL) the solution was washed with 1N aqueous HCl (50 mL), saturated aqueous NaHCO3 (50 mL) and brine (50 mL), dried with MgSO4 and evaporated under vacuum. The pyrrolidine-1-carboxylic acid tert-butyl ester was dissolved in DMSO (5 mL). Triethylamine (0.5 mL) and then SO3 pyridine complex (150 mg) were added and the mixture was stiffed at ambient temperature for 3 hours. After dilution with ethyl acetate (100 mL), the solution was washed with water (50 mL) and brine, dried with MgSO4 and evaporated under vacuum. The residue was purified by flash chromatography on silica gel. Eluent: 5% methanol in ethyl acetate. Yield: 40 mg 3-(4-morpholin-4-yl-4-oxo-2-benzylsulfonylmethyl-butyrylamino)-4-oxo-1-pyrrolidine-1-carboxylic acid tert-butyl ester as white solid as mixture of diastereomers; 1H NMR: (DMSO) 8.80–8.66 (m, 1H), 7.42–7.34 (m, 5H), 4.52–4.41 (m, 2H), 4.34–4.20 (m, 1H), 3.98–3.88 (m, 1H), 3.82 (d, J=18.5 Hz, 1H), 3.70–3.05 (m, 13H), 2.70–2.52 (m, 2H), 1.41 (s, 9H); MS: (M+H)+ 538.

reactant | 4-Morpholin-4-yl-4-oxo-2-benzylsulfonylmethyl-butyric acid | 0.34 mmol, 120 mg | N1(CCOCC1)C(CC(C(=O)O)CS(=O)(=O)CC1=CC=CC=C1)=O | C16H21NO6S
reactant | 3-amino-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.74 mmol, 150 mg | C(C)(C)(C)OC(=O)N1CC(C(C1)O)N | C9H18N2O3
reactant | EDC | 1.6 mmol, 0.3 g
reactant | HOBt | 0.96 mmol, 150 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4-methylmorpholine | 0.5 mL | CN1CCOCC1 | C5H11NO
product | 3-(4-Morpholin-4-yl-4-oxo-2-benzylsulfonylmethyl-butyrylamino)-4-oxo-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C(C1)=O)NC(C(CC(=O)N1CCOCC1)CS(=O)(=O)CC1=CC=CC=C1)=O | C25H35N3O8S
